US09102591B2
2-Fluoro-N-[3-[1-(trifluoromethyl)cyclopropyl]-2-[6-(trifluoromethyl)-3-pyridyl]propyl]benzamide
From 2-fluorobenzoic acid and 3-(1-trifluoromethyl-cyclopropyl)-2-(6-trifluoromethyl-pyridin-3-yl)-propylamine. LCMS (MH+): m/z=435.1, tR (minutes, Method G)=2.58

reactant | 2-fluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | 3-(1-trifluoromethyl-cyclopropyl)-2-(6-trifluoromethyl-pyridin-3-yl)-propylamine | FC(C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)(F)F)(F)F | C13H14F6N2
product | 2-Fluoro-N-[3-[1-(trifluoromethyl)cyclopropyl]-2-[6-(trifluoromethyl)-3-pyridyl]propyl]benzamide | FC1=C(C(=O)NCC(CC2(CC2)C(F)(F)F)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1 | C20H17F7N2O
